* /home/inderjitsingh/esim-2.3/library/subcircuitlibrary/6t_sram_sub_ckt/6t_sram_sub_ckt.cir

xsc5 net-_sc2-pad2_ net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc3 net-_sc1-pad1_ net-_sc2-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ gnd sky130_fd_pr__nfet_01v8 
xsc6 net-_sc6-pad1_ net-_sc1-pad2_ net-_sc2-pad2_ gnd sky130_fd_pr__nfet_01v8 
xsc4 net-_sc2-pad2_ net-_sc1-pad1_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8 
xsc2 net-_sc1-pad1_ net-_sc2-pad2_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8 
v1 net-_sc2-pad3_ gnd  dc 1.8
* u1  net-_sc1-pad3_ net-_sc1-pad2_ net-_sc1-pad1_ net-_sc6-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
