* /home/inderjitsingh/esim-workspace/8_bit_sram/8_bit_sram.cir

.include 1bit_sram_sym.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
* u5  a2 a1 a0 net-_u5-pad4_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ adc_bridge_4
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ isramsd_decoder
* u7  net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u7-pad9_ net-_u7-pad10_ net-_u7-pad11_ net-_u7-pad12_ net-_u7-pad13_ net-_u7-pad14_ net-_u7-pad15_ net-_u7-pad16_ dac_bridge_8
v1  a2 gnd pulse(0 1.8 0 1n 1n 4m 8m)
v2  a1 gnd pulse(0 1.8 0 1n 1n 2m 4m)
v3  a0 gnd pulse(0 1.8 0 1n 1n 1m 2m)
v4 net-_u5-pad4_ gnd  dc 1.8
* u2  a2 plot_v1
* u3  a1 plot_v1
* u4  a0 plot_v1
x1 net-_u7-pad9_ win r_enbl out7 1bit_sram_sym
x2 net-_u7-pad10_ win r_enbl out6 1bit_sram_sym
x3 net-_u7-pad11_ win r_enbl out5 1bit_sram_sym
x4 net-_u7-pad12_ win r_enbl out4 1bit_sram_sym
x5 net-_u7-pad13_ win r_enbl out3 1bit_sram_sym
x6 net-_u7-pad14_ win r_enbl out2 1bit_sram_sym
x7 net-_u7-pad15_ win r_enbl out1 1bit_sram_sym
x8 net-_u7-pad16_ win r_enbl out0 1bit_sram_sym
v5  win gnd pulse(0 1.8 0 1n 1n 8m 14m)
* u6  win plot_v1
v6  r_enbl gnd pulse(0 1.8 0 1n 1n 16m 32m)
* u8  r_enbl plot_v1
* u9  out7 plot_v1
* u10  out6 plot_v1
* u11  out5 plot_v1
* u12  out4 plot_v1
* u13  out3 plot_v1
* u14  out2 plot_v1
* u15  out1 plot_v1
* u16  out0 plot_v1
* s c m o d e
a1 [a2 a1 a0 net-_u5-pad4_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ] u5
a2 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] [net-_u1-pad4_ ] [net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
a3 [net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] [net-_u7-pad9_ net-_u7-pad10_ net-_u7-pad11_ net-_u7-pad12_ net-_u7-pad13_ net-_u7-pad14_ net-_u7-pad15_ net-_u7-pad16_ ] u7
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             isramsd_decoder, NgSpice Name: isramsd_decoder
.model u1 isramsd_decoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 2e-03 20e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a2)+24 v(a1)+22 v(a0)+20 v(win)+18 v(r_enbl)+16 v(out7)+14 v(out6)+12 v(out5)+10 v(out4)+8 v(out3)+6 v(out2)+4 v(out1)+2 v(out0)
.endc
.end
