* /home/inderjitsingh/esim-workspace/one_bit_sram_isd/one_bit_sram_isd.cir

.include 6t_sram_sub_ckt.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ idata_writer_cktsd
* u4  wl win net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
* u5  net-_u2-pad3_ net-_u2-pad4_ bl blbar dac_bridge_2
x1 bl wl q blbar 6t_sram_sub_ckt
v2  win gnd pulse(0 1.8 0 1n 1n 1u 2u)
v1  wl gnd pulse(0 1.8 5u 1n 1n 5u 10u)
xsc2 net-_sc1-pad1_ q net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8 
xsc3 net-_sc2-pad3_ r_enbl gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ q net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc4 net-_sc1-pad1_ r_enbl net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc5 out net-_sc1-pad1_ net-_sc1-pad3_ ? sky130_fd_pr__pfet_01v8 
xsc6 out net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
v3 net-_sc1-pad3_ gnd  dc 1.8
v4  r_enbl gnd pulse(0 1.8 5u 1n 1n 10u 20u)
* u7  out plot_v1
* u6  r_enbl plot_v1
* u1  wl plot_v1
* u3  win plot_v1
* s c m o d e
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] [net-_u2-pad4_ ] u2
a2 [wl win ] [net-_u2-pad1_ net-_u2-pad2_ ] u4
a3 [net-_u2-pad3_ net-_u2-pad4_ ] [bl blbar ] u5
* Schematic Name:                             idata_writer_cktsd, NgSpice Name: idata_writer_cktsd
.model u2 idata_writer_cktsd(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-06 20e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)+2 v(r_enbl)+4 v(wl)+8 v(win)+6
.endc
.end
